* source 0312
V_V1         N00164 0  AC 0
+SIN 0 100 60 0 0 0
R_R1         N00164 N00171  10k TC=0,0 
L_L1         N00171 OUTPUT  50u  
C_C1         OUTPUT 0  1u  TC=0,0 
V_V2         N00566 N00587 10
R_R2         0 N00573  1k TC=0,0 
R_R3         N00566 N00573  1k TC=0,0 
C_C2         N00573 0  1n  TC=0,0 
C_C3         N00939 0  10U  TC=0,0 
R_R4         N00931 N00939  200 TC=0,0 
R_R5         0 N00939  400 TC=0,0 
V_V3         N00931 0 DC 0Vdc AC 1m 
