* source 040101
D_D1         N00153 N00158 D1N4004 
D_D2         N00181 N00158 D1N4004 
V_V2         N00181 0 2v
R_R1         0 N00158  1k TC=0,0 
V_V1         N00153 0 2v
