* source 0409LARGE_SMALL_SIGNAL_OF_BJT
V_V2         N00146 0 12Vdc
R_R1         N00711 N00806  4.7k TC=0,0 
R_R2         N00142 N00146  100 TC=0,0 
Q_Q1         N00142 N00806 0 Q2N3904
V_V3         N00711 0 6Vdc
