* source 240328_APPLICATION_OF_DIODE
D_D1         N00900 N00884 D1N4004 
R_R1         N00900 N00893  5.6k TC=0,0 
D_D2         N00884 N00893 D1N4004 
D_D3         N00900 0 D1N4004 
D_D4         0 N00893 D1N4004 
C_C1         N00900 N00893  22u  TC=0,0 
V_V1         N00884 0  AC 0
+SIN 0 5 60 0 0 0
R_R6         N02690 N02874  5.6k TC=0,0 
D_D6         N02690 N02717 D1N4004 
D_D8         N02713 N02690 D1N4004 
V_V3         N02717 0 2vdc
V_V4         0 N02713 3vdc
V_V5         N02874 0 0Vdc
