* source 6_BJT_AMP_BIASING
R_R1         N00101 N00110  330k TC=0,0 
R_R2         N00110 N000660  2.7k TC=0,0 
Q_Q1         N00110 N00101 0 Q2N3904
V_V1         N000660 0 12Vdc
