* source 040201_BIPOLAR_JUNCTION
Q_Q1         OUT N00171 0 Q2N3904
R_R1         N00166 N00171  4.7k TC=0,0 
V_V2         OUT 0 5Vdc
I_I1         0 N00166 DC 50uAdc  
