* source MIDEXAM
V_V1         N00146 0 3Vdc
V_V2         N00128 0 0Vdc
R_R1         N00146 N00244  50k TC=0,0 
R_R2         N00135 N00128  100 TC=0,0 
Q_Q1         N00135 N00244 0 Q2N3904
